US07550495B2
Step F: Methyl {2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}carbamate
Methyl (3-amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)carbamate (185 mg, 0.590 mmol) and DMAP (15 mg, 0.118 mmol) were dissolved in 10 mL of DCM. Trimethylacetyl chloride (0.080 mL, 0.649 mmol) was added dropwise and the solution was stirred at rt for 2 h. The solution was washed with aqueous NaHCO3 solution, brine and dried over anhydrous MgSO4. The solvent was concentrated. The residue was dissolved in 4 mL of DCE and P2O5 (catalytic) was added and the solution was heated at 125° C. for 1 h using a Personal Chemistry microwave apparatus.

reactant | Methyl (3-amino-4-{[(4,4-difluorocyclohexyl)methyl]amino}phenyl)carbamate | 0.590 mmol, 185 mg | NC=1C=C(C=CC1NCC1CCC(CC1)(F)F)NC(OC)=O | C15H21F2N3O2
reactant | Trimethylacetyl chloride | 0.649 mmol, 0.080 mL | CC(C(=O)Cl)(C)C | C5H9ClO
catalyst | DMAP | 0.118 mmol, 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl {2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}carbamate | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NC(OC)=O | C20H27F2N3O2
